US06228808B1
tert-Butylsulfamoylterephthalic acid
At 50° C., 45.0 g (1.13 mol) of sodium hydroxide in 600 ml of water were added dropwise to a solution of 106.0 g (0.32 mol) of dimethyl tert-butylsulfamoylterephthalate in 1600 ml of methanol. The mixture was stirred at reflux temperature for 2 h and evaporated, the residue was taken up in approximately 500 ml of water and a pH of 1 was established using conc. hydrochloric acid. The precipitated solid was filtered off with suction and dried. This gave 87.4 g (90% of theory) of tert-butylsulfamoylterephthalic acid of m.p. 210-213° C.

reactant | sodium hydroxide | 1.13 mol, 45.0 g | [OH-].[Na+]
reactant | dimethyl tert-butylsulfamoylterephthalate | 0.32 mol, 106.0 g | C(C)(C)(C)NS(=O)(=O)C1=C(C(=O)OC)C=CC(=C1)C(=O)OC | C14H19NO6S
solvent | water | 600 ml | O | H2O
solvent | methanol | 1600 ml | CO | CH4O
product | tert-Butylsulfamoylterephthalic acid | C(C)(C)(C)NS(=O)(=O)C1=C(C(=O)O)C=CC(=C1)C(=O)O | C12H15NO6S
